US06245804B1
350 mg of 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroyl-amino)-phthalide is dissolved under argon in 15 ml of dimethylformamide and mixed with 0.77 ml of trifluoromethyl-trimethylsilane and 350 mg of cesium carbonate while being cooled with ice. After 3 hours of stirring at room temperature, 5 ml of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran and some drops of water are added and stirred for one hour at room temperature. After 100 ml of water is added, it is extracted with ethyl acetate, the organic phase is dried (Na2SO4) and concentrated by evaporation. 250 mg of 4-bromo-5-(2-hydroxy-4-methyl-4-phenyl-2-trifluoromethyl-valeroylamino)-phthalide, melting point 187-194° C., is obtained.

reactant | 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroyl-amino)-phthalide | 350 mg | BrC1=C2COC(=O)C2=CC=C1NC(C(CC(C)(C1=CC=CC=C1)C)=O)=O | C20H18BrNO4
reactant | trifluoromethyl-trimethylsilane | 0.77 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | cesium carbonate | 350 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 4-bromo-5-(2-hydroxy-4-methyl-4-phenyl-2-trifluoromethyl-valeroylamino)-phthalide | 250 mg | BrC1=C2COC(=O)C2=CC=C1NC(C(CC(C)(C1=CC=CC=C1)C)(C(F)(F)F)O)=O | C21H19BrF3NO4
